US05356910
N-(3-Chloro-4-pyridinyl)-3-methyl-1H-indol-1-amine hydrochloride
The title compound was prepared from 3-methyl-1H-indol-1-amine and 3,4-dichloropyridine hydrochloride in isopropanol at 80° C. for 5 hours in substantially the same manner as in Example 1. Recrystallized from ethanol, m.p. 278°-280° dec.).

reactant | 3-methyl-1H-indol-1-amine | CC1=CN(C2=CC=CC=C12)N | C9H10N2
reactant | 3,4-dichloropyridine hydrochloride | Cl.ClC=1C=NC=CC1Cl
solvent | isopropanol | C(C)(C)O | C3H8O
product | N-(3-Chloro-4-pyridinyl)-3-methyl-1H-indol-1-amine hydrochloride | Cl.ClC=1C=NC=CC1NN1C=C(C2=CC=CC=C12)C | InChI=1S/C14H12ClN3.ClH/c1-10-9-18(14-5-3-2-4-11(10)14)17-13-6-7-16-8-12(13)15;/h2-9H,1H3,(H,16,17);1H
